US07407954B2
2-[3-(4-Phenoxy-phenyl)-ureido]-thiophene-3-carboxylic acid tert-butyl ester II
To a solution of t-butyl 2-amino-thiophene-3-carboxylate (0.6 g) in dry pyridine (20 ml) was added 4-phenoxyphenylisocyanate (0.84 g). The mixture was stirred for 48 h, then the dark coloured solution was poured into water (200 ml). The stirred mixture was acidified with acetic acid and a precipitate slowly solidified to give a brown solid. After about 1 hr, the solid was filtered off, dried in vacuo and recrystallised from acetonitrile, giving an off-white solid. MP=203-205° C. Yield=0.6 g (48.8%).

reactant | t-butyl 2-amino-thiophene-3-carboxylate | 0.6 g | NC=1SC=CC1C(=O)OC(C)(C)C | C9H13NO2S
reactant | 4-phenoxyphenylisocyanate | 0.84 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
reactant | water | 200 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-[3-(4-Phenoxy-phenyl)-ureido]-thiophene-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=C(SC=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C22H22N2O4S
